US07956177B2
3-[(6-Amino-hexanoyl)-ethoxycarbonylmethyl-amino]-propionic acid ethyl ester AC
3-{(Ethoxycarbonylmethyl-[6-(9H-fluoren-9-ylmethoxycarbonylamino)-hexanoyl]-amino}-propionic acid ethyl ester AB (11.5 g, 21.3 mmol) was dissolved in 20% piperidine in dimethylformamide at 0° C. The solution was continued stirring for 1 h. The reaction mixture was concentrated under vacuum, water was added to the residue, and the product was extracted with ethyl acetate. The crude product was purified by conversion into its hydrochloride salt.

reactant | (Ethoxycarbonylmethyl-[6-(9H-fluoren-9-ylmethoxycarbonylamino)-hexanoyl]-amino}-propionic acid ethyl ester | C(C)OC(C(C)N(C(CCCCCNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)CC(=O)OCC)=O | C30H38N2O7
solvent | piperidine | N1CCCCC1 | C5H11N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[(6-Amino-hexanoyl)-ethoxycarbonylmethyl-amino]-propionic acid ethyl ester | C(C)OC(CCN(CC(=O)OCC)C(CCCCCN)=O)=O | C15H28N2O5
